US06518273B1
Phenylmethyl 4-{3-[5-Chloro-2-(4-chlorophenyl )-1-methyl-1H-indol-3-yl]-1-oxopropyl}-3-oxo-1-piperazinecarboxylate
Oxalyl chloride (0.08 mL, 114 mg, 0.9 mmol) was added dropwise to a stirred, cooled (0° C.) solution of 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid (Description 12, 330 mg, 0.95 mmol) and DMF (1 drop) in toluene (15 mL) and the mixture was stirred at room temperature for 2 h. to give a solution of 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoyl chloride. Sodium hydride (60% dispersion in mineral oil, 19 mg, 0.48 mmol) was added to a solution of phenylmethyl 3-oxo-1-piperazinecarboxylate (Eur.J.Med.Chem. 1981, 16, 229-232) (111 mg, 0.48 mmol) in DMF (3 mL) and the mixture was stirred at room temperature for 30 min. A portion of the solution of 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoyl chloride (7.5 mL) was added dropwise and the mixture was stirred at room temperature overnight. Water was added and the mixture was extracted with ether. The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (80:20). The fractions containing product were combined, washed with aqueous sodium hydroxide (4M) and water, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane and washed with aqueous hydrochloric acid (2M), saturated aqueous sodium carbonate and water, dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a colorless oil (14 mg, 5%). δ7.58 (1H, s), 7.47 (2H, d, J 8.4 Hz), 7.39-7.16 (9H, m), 5.15 (2H, s), 4.22 (2H, s), 3.81 (2H, m), 3.61 (2H, m), 3.53 (3H, s), 3.15 (2H, m), and 3.00 (2H, m). m/z (ES+) 564, 566 (M+1).

reactant | Sodium hydride | 0.48 mmol, 19 mg | [H-].[Na+]
reactant | phenylmethyl 3-oxo-1-piperazinecarboxylate | 0.48 mmol, 111 mg | O=C1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C12H14N2O3
reactant | 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole 3-propanoyl chloride | 7.5 mL | ClC=1C=C2C=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl.CCC(=O)Cl
reactant | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Phenylmethyl 4-{3-[5-Chloro-2-(4-chlorophenyl )-1-methyl-1H-indol-3-yl]-1-oxopropyl}-3-oxo-1-piperazinecarboxylate | 14 mg, 5% | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C30H27Cl2N3O4
